US05998412
To a solution of 4-(5-fluoroindol-3-yl)-1,2,3,6-tetrahydropyridine (3.68 g, 17.0 mmol) [prepared as described in Guillaume, J., Dumont, C., Laurent, J., Nedelec, L., Eur. J. Med. Chem., 22, 33, (1987)] in argon deoxygenated methanol (80 ml) was added 10% Pd-C (740 mg) and the resulting mixture was stirred under an atmosphere of hydrogen (1 atm.). After 3 h, the reaction mixture was degassed under argon, di-tert-butyl dicarbonate (5.03 g, 23.0 mmol) was added, and the hydrogenation was continued for an additional 21 h. The argon degassed slurry was filtered through Celite, washed with methylene chloride, and the filtrate was concentrated in vacuo. Recrystallization of the residue from methylene chloride/hexanes gave N-tert-butoxycarbonyl-4-(5-fluoroindol-3-yl)piperidine (65%)as a white solid. The mother liquor (2 g) was chromatographed (SiO2, 15% ethyl acetate/hexanes) to give an additional 0.9 g of product (12%).

reactant | 4-(5-fluoroindol-3-yl)-1,2,3,6-tetrahydropyridine | 17.0 mmol, 3.68 g | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
reactant | di-tert-butyl dicarbonate | 23.0 mmol, 5.03 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Pd-C | 740 mg | [Pd] | Pd
solvent | methanol | 80 ml | CO | CH4O
product | N-tert-butoxycarbonyl-4-(5-fluoroindol-3-yl)piperidine | 65% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)F | C18H23FN2O2
